US07897607B2
2-Methoxy-N-methyl-6-[[(methylamino)carbonyl]amino]benzamide
A mixture of 5-Methoxy-2-(methylamino)-4H-3,1-benzoxazin-4-one (1.05 g, 5.09 mmol) and methylamine (2.0 M solution in tetrahydrofuran; 12.7 ml, 25.5 mmol) in dimethylsulfoxide (2 ml) was heated in sealed tube for 15 h. After cooling, the mixture was diluted with water and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and concentrated under vacuum to afford 0.980 g (81%) of the title compound.

reactant | 5-Methoxy-2-(methylamino)-4H-3,1-benzoxazin-4-one | 5.09 mmol, 1.05 g | COC1=CC=CC2=C1C(OC(=N2)NC)=O | C10H10N2O3
reactant | methylamine | 25.5 mmol, 2.0 M, 12.7 ml | CN | CH5N
solvent | dimethylsulfoxide | 2 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-Methoxy-N-methyl-6-[[(methylamino)carbonyl]amino]benzamide | 0.980 g, 81% | COC1=C(C(=O)NC)C(=CC=C1)NC(=O)NC | C11H15N3O3
